US08377949B2
1-(1,4-Dimethyl-1H-indol-3-ylmethyl)-3-(2-morpholin-4-yl-ethyl)-1H-quinazoline-2,4-dione
To a mixture of 3-[1-(4-chloro-phenyl)-ethyl]-1H-quinazoline-2,4-dione (175 mg, 0.58 mmol) and (1,4-dimethyl-1H-indol-3-ylmethyl)-trimethylammonium iodide (210 mg, 0.61 mmol) in DMF (2.5 mL) is added K2CO3 (100 mg, 0.72 mmol). The mixture is stirred at 60° C. for 4 hours.

reactant | 3-[1-(4-chloro-phenyl)-ethyl]-1H-quinazoline-2,4-dione | 0.58 mmol, 175 mg | ClC1=CC=C(C=C1)C(C)N1C(NC2=CC=CC=C2C1=O)=O | C16H13ClN2O2
reactant | (1,4-dimethyl-1H-indol-3-ylmethyl)-trimethylammonium iodide | 0.61 mmol, 210 mg | [I-].CN1C=C(C2=C(C=CC=C12)C)C[N+](C)(C)C
reactant | K2CO3 | 0.72 mmol, 100 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 1-(1,4-Dimethyl-1H-indol-3-ylmethyl)-3-(2-morpholin-4-yl-ethyl)-1H-quinazoline-2,4-dione | CN1C=C(C2=C(C=CC=C12)C)CN1C(N(C(C2=CC=CC=C12)=O)CCN1CCOCC1)=O | C25H28N4O3
